US20010047027A1
Step a(2). 1-[2-(methylsulfanyl)phenyl]hydrazine hydrochloride
Crude di(tert-butyl) 1-[2-(methylsulfanyl)phenyl]-1,2-hydrazinedicarboxylate was dissolved in 8000 ml of 1M HCl in ether. HCl gas was bubbled through the mixture for approximately 10 min every 2 hours, over a period of 6 hours. The mixture was stirred overnight and a precipitate formed. The solid was collected by filtration and washed with ether to provide 262 g of the title compound (69% from bromothioanisole).

reactant | di(tert-butyl) 1-[2-(methylsulfanyl)phenyl]-1,2-hydrazinedicarboxylate | CSC1=C(C=CC=C1)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H26N2O4S
reactant | HCl | 1M, 8000 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-[2-(methylsulfanyl)phenyl]hydrazine hydrochloride | 262 g, 69% | Cl.CSC1=C(C=CC=C1)NN | InChI=1S/C7H10N2S.ClH/c1-10-7-5-3-2-4-6(7)9-8;/h2-5,9H,8H2,1H3;1H
